US07786132B2
1-(2-(4-(5-(4-Fluorobenzyl)-4-(2-((S)-2-(hydroxymethyl)pyrrolidin-1-yl)ethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
Methanesulfonyl chloride (82 mg, 0.72 mmol) was added to a mixture of 1-(2-(4-(5-(4-fluorobenzyl)-4-(2-hydroxyethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (200 mg, 0.36 mmol) and diisopropylethylamine (93 mg, 0.72 mmol) in dichloromethane (10 mL) at 0° C. After stirring at 0° C. for 5 h, the solvent was removed in vacuo and 5 mL of N-methylpyrrolidine, a catalytic amount of sodium iodide and (S)-pyrrolidin-2-ylmethanol (0.3 g, 2.97 mmol) were added. The mixture was heated at 100° C. for 15 h and then cooled to rt. 50 mL of water was added and the mixture extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (3×50 mL), dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the product purified by flash chromatography eluting with methanol (1M, ammonia)/dichloromethane (1:20) to give the title compound as a slightly yellow solid (105 mg, 46%). MS (M+H)+ 645/647.

reactant | Methanesulfonyl chloride | 0.72 mmol, 82 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(2-(4-(5-(4-fluorobenzyl)-4-(2-hydroxyethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.36 mmol, 200 mg | FC1=CC=C(CC2=C(C=C(S2)C2=NC(=NC=C2Br)NCCN2C(NC(C2(C)C)=O)=O)CCO)C=C1 | C24H25BrFN5O3S
reactant | diisopropylethylamine | 0.72 mmol, 93 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | [I-].[Na+]
reactant | (S)-pyrrolidin-2-ylmethanol | 2.97 mmol, 0.3 g | N1[C@@H](CCC1)CO | C5H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 1-(2-(4-(5-(4-Fluorobenzyl)-4-(2-((S)-2-(hydroxymethyl)pyrrolidin-1-yl)ethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | FC1=CC=C(CC2=C(C=C(S2)C2=NC(=NC=C2Br)NCCN2C(NC(C2(C)C)=O)=O)CCN2[C@@H](CCC2)CO)C=C1 | C29H34BrFN6O3S
